US06589970B2
A mixture of 3-phenylethyl-benzofuran-2-carboxylic acid (5-bromo-6-hydroxy-naphthalen-2-ylmethyl)-methyl-amide, prepared in step 4 of Example 45, methyl bromoacetate (260 μL, 2.75 mmol) and potassium carbonate (1.58 g, 11.96 mmol) in 25 mL of DMF was stirred under nitrogen at room temperature 16 h (overnight). The reaction was partitioned between ethyl acetate and water. The organic layer was separated, extracted multiple times with water, dried (MgSO4) and the solvent removed under reduced pressure to give (1-bromo-6-{[methyl-(3-phenethyl-benzofuran-2-carbonyl)-amino]-methyl}-naphthalen-2-yloxy)-acetic acid methyl ester (1.29 g, 96%) as a light brown foam, MS m/z: 586 [M+H]+.

reactant | 3-phenylethyl-benzofuran-2-carboxylic acid (5-bromo-6-hydroxy-naphthalen-2-ylmethyl)-methyl-amide | BrC1=C2C=CC(=CC2=CC=C1O)CN(C(=O)C=1OC2=C(C1CCC1=CC=CC=C1)C=CC=C2)C | C29H24BrNO3
reactant | methyl bromoacetate | 2.75 mmol, 260 μL | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 11.96 mmol, 1.58 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | (1-bromo-6-{[methyl-(3-phenethyl-benzofuran-2-carbonyl)-amino]-methyl}-naphthalen-2-yloxy)-acetic acid methyl ester | 1.29 g, 96% | COC(COC1=C(C2=CC=C(C=C2C=C1)CN(C(=O)C=1OC2=C(C1CCC1=CC=CC=C1)C=CC=C2)C)Br)=O | C32H28BrNO5
